US06855710B2
(Z)-3-{1-[4-(N-piperazinomethylcarbonyl-N-methyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone-dihydrochloride
390 mg (0.7 mmol) of (Z)-3-{1-[4-(N—(N-benzylpiperazinomethylcarbonyl)-N-methylamino)-phenylamino]-1-phenyl-methylidene}-2-indolinone are dissolved in 20 ml of dichloromethane and after the addition of 0.2 g (1.4 mmol) of 1-chloroethyl chloroformate heated for 30 minutes at ambient temperature and refluxed for 60 minutes. The solvent is concentrated by evaporation, the residue is combined with 10 ml of methanol and refluxed for 90 minutes. After 18 hours stirring at ambient temperature, the product is suction filtered, washed with methanol and dried.

reactant | (Z)-3-{1-[4-(N—(N-benzylpiperazinomethylcarbonyl)-N-methylamino)-phenylamino]-1-phenyl-methylidene}-2-indolinone | 0.7 mmol, 390 mg | C(C1=CC=CC=C1)N1CCN(CC1)CC(=O)N(C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C35H35N5O2
reactant | 1-chloroethyl chloroformate | 1.4 mmol, 0.2 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (Z)-3-{1-[4-(N-piperazinomethylcarbonyl-N-methyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone-dihydrochloride | Cl.Cl.N1(CCNCC1)CC(=O)N(C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | InChI=1S/C28H29N5O2.2ClH/c1-32(25(34)19-33-17-15-29-16-18-33)22-13-11-21(12-14-22)30-27(20-7-3-2-4-8-20)26-23-9-5-6-10-24(23)31-28(26)35;;/h2-14,29-30H,15-19H2,1H3,(H,31,35);2*1H/b27-26-;;
